US06306887B1
C. 3-[3-(1-tert-Butoxycarbonylamino-3-methyl-butyl)-isoxazol-5-yl]-3-oxo-propionic acid ethyl ester
The title compound was prepared from 3-(1-tert-butoxycarbonylamino-3-methyl-butyl)-isoxazole-5-carboxylic acid by treatment with carbonyldiimidazole followed by the magnesium salt of mono-ethyl malonate as described in Angew. Chem. Int Ed. Eng., 18 (1979), p. 72.

reactant | 3-(1-tert-butoxycarbonylamino-3-methyl-butyl)-isoxazole-5-carboxylic acid | C(C)(C)(C)OC(=O)NC(CC(C)C)C1=NOC(=C1)C(=O)O | C14H22N2O5
reactant | carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | mono-ethyl malonate | C(CC(=O)[O-])(=O)OCC
product | 3-[3-(1-tert-Butoxycarbonylamino-3-methyl-butyl)-isoxazol-5-yl]-3-oxo-propionic acid ethyl ester | C(C)OC(CC(=O)C1=CC(=NO1)C(CC(C)C)NC(=O)OC(C)(C)C)=O | C18H28N2O6
